US04810828
A mixture of 3.0 g (8.6 mmol) of [5-chloro-1-(4-ethylphenyl)-2-(prop-2-ylthio)-imidazol-4-yl]-2-methyl-2-propen-1-one and 2.3 g (11 mmol) of sodium metaperiodate was heated at 50° C. for 3 hours in 30 ml of 90% aqueous methanol. The mixture was cooled and poured into water. Extraction with dichloromethane yielded an oil which was purified by flash chromatography on silica (20% ethyl acetate in petroleum ether) to obtain 1.3 g (41%) of [5-chloro-1-(4-ethylphenyl)-2-(prop-2-ylsulfinyl)-imidazol-4-yl]-2-methyl-2-propen-1-one as cream-colored crystals melting at 83°-4° C.

reactant | [5-chloro-1-(4-ethylphenyl)-2-(prop-2-ylthio)-imidazol-4-yl]-2-methyl-2-propen-1-one | 8.6 mmol, 3.0 g | ClC1=C(N=C(N1C1=CC=C(C=C1)CC)SC(C)C)C(C(=C)C)=O | C18H21ClN2OS
reactant | sodium metaperiodate | 11 mmol, 2.3 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | [5-chloro-1-(4-ethylphenyl)-2-(prop-2-ylsulfinyl)-imidazol-4-yl]-2-methyl-2-propen-1-one | 1.3 g, 41% | ClC1=C(N=C(N1C1=CC=C(C=C1)CC)S(=O)C(C)C)C(C(=C)C)=O | C18H21ClN2O2S
